US04565425
A mixture of 2.00 g of trans-4-cyanocyclohexanecarboxaldehyde, 2.13 g of 2-pentyl-1,3-propanediol and 65 mg of p-toluenesulphonic acid in 100 ml of benzene was heated to reflux for 3 hours while gassing with argon and with separation of water in a round flask provided with a water separator and a reflux condenser. The mixture was subsequently treated with 3.0 g of potassium carbonate, stirred at room temperature for 16 hours, then filtered and the filtrate was concentrated. Recrystallization of the crystalline residue (4.1 g) from hexane at 0° C. gave 1.47 g (38%) of trans-4-(trans-5-pentyl-m-dioxan-2-yl)cyclohexanecarbonitrile as colourless crystals in a purity of 99.1%. After a further recrystallization from hexane at 0° C., the purity increased to 99.9%; m.p. (C-N) 45.6° C., cl.p. (N-I) 46.7° C.

reactant | trans-4-cyanocyclohexanecarboxaldehyde | 2.00 g | C(#N)[C@@H]1CC[C@H](CC1)C=O | C8H11NO
reactant | 2-pentyl-1,3-propanediol | 2.13 g | C(CCCC)C(CO)CO | C8H18O2
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulphonic acid | 65 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | trans-4-(trans-5-pentyl-m-dioxan-2-yl)cyclohexanecarbonitrile | 1.47 g, 38% | C(CCCC)[C@H]1CO[C@@H](OC1)[C@@H]1CC[C@H](CC1)C#N | C16H27NO2
